US07060844B2
To a stirred suspension of (3-{5-[(2,4-dimethoxy-benzyl)-methyl-amino]-3H-isobenzofuran-1-ylidene}-6-fluoro-1,3-dihydro-indol-2-one (197 mg, 0.44 mmol) in methylene chloride (10 ml) was added trifluoroacetic acid (1 ml). The mixture was stirred for 30 minutes at room temperature and then evaporated to give a residue. The residue was treated with 50% MeOH in water (25 ml, containing 1 ml of triethylamine) with heating for 30 minutes. After filtered and dried under vacuum, the resulting solid was mixed with acetone (50 ml), and heated at 50° C. for 30 minutes. The mixture was cooled to room temperature and filtered. The filtrate solution was concentrated under reduced pressure to give a crude product. Trituration of the crude product with CHCl3/hexanes afforded 6-fluoro-3-(5-methylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one as a yellow solid (100 mg, 76%).

reactant | 3-{5-[(2,4-dimethoxy-benzyl)-methyl-amino]-3H-isobenzofuran-1-ylidene}-6-fluoro-1,3-dihydro-indol-2-one | 0.44 mmol, 197 mg | COC1=C(CN(C=2C=C3COC(C3=CC2)=C2C(NC3=CC(=CC=C23)F)=O)C)C=CC(=C1)OC | C26H23FN2O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | MeOH | CO | CH4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 6-fluoro-3-(5-methylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 100 mg, 76% | FC1=CC=C2C(C(NC2=C1)=O)=C1OCC2=CC(=CC=C12)NC | C17H13FN2O2
